US09085555B2
(6-tert-Butoxycarbonylmethyl-1-carbamoyl-1H-indol-3-yl)-acetic acid
was prepared from (1H-indol-6-yl)-acetic acid tert-butyl ester (described for the preparation of (1-carbamoyl-3-isocyanato-1H-indol-6-yl)-acetic acid tert-butyl ester) according to the protocol described scheme A9 steps A, B, D, E for the preparation of [1-carbamoyl-5-(2-hydroxy-ethoxy)-1H-indol-3-yl]-acetic acid. MS (LC/MS): 350.2/352.2 [M+NH4]+, 687.2/689.2 [2M+Na]+, 277.0/279.0 [MH−tBu]+, 288.0/290.0 [M−CONH2]−, 376.9/378.8 [M+HCOO]−, 662.8/664.7 [2M−H]−; tR (HPLC conditions f): 1.79 min.

reactant | (1H-indol-6-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC=C2C=CNC2=C1)=O | C14H17NO2
reactant | (1-carbamoyl-3-isocyanato-1H-indol-6-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC=C2C(=CN(C2=C1)C(N)=O)N=C=O)=O | C16H17N3O4
reactant | [1-carbamoyl-5-(2-hydroxy-ethoxy)-1H-indol-3-yl]-acetic acid | C(N)(=O)N1C=C(C2=CC(=CC=C12)OCCO)CC(=O)O | C13H14N2O5
product | (6-tert-Butoxycarbonylmethyl-1-carbamoyl-1H-indol-3-yl)-acetic acid | C(C)(C)(C)OC(=O)CC1=CC=C2C(=CN(C2=C1)C(N)=O)CC(=O)O | C17H20N2O5
